US05179089
Preparation of 2-(6,7-diethoxy-1,2,3,4-tetrahydro-1-isoquinolinylidene)-2-[2-benzoyloxy-3-(4-morpholinyl)-propyl]mercaptoacetonitrile hydrochloride
40 ml of benzene, 1.0 g of triethylamine and 1.5 g of benzoyl chloride are added to 4.34 g of 2-(6,7-diethoxy-1,2,3,4-tetrahydro-1-isoquinolinylidene)-2-[2-hydroxy-3-(4-morpholinyl)propyl]mercaptoacetonitrile and the reaction mixture is refluxed for 45 minutes, then cooled down. After filtering and evaporating the solvent under reduced pressure, the residue is dissolved in isopropanol and acidified by adding abs. ethanolic hydrogen chloride solution. In this way 3.77 g of the named hydrochloride crystallize out, m.p.: 207° C. (from ethanol).

reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
reactant | benzoyl chloride | 1.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-(6,7-diethoxy-1,2,3,4-tetrahydro-1-isoquinolinylidene)-2-[2-hydroxy-3-(4-morpholinyl)propyl]mercaptoacetonitrile | 4.34 g | C(C)OC=1C=C2CCNC(C2=CC1OCC)=C(C#N)SCC(CN1CCOCC1)O | C22H31N3O4S
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
product | 2-(6,7-diethoxy-1,2,3,4-tetrahydro-1-isoquinolinylidene)-2-[2-benzoyloxy-3-(4-morpholinyl)-propyl]mercaptoacetonitrile hydrochloride | Cl.C(C)OC=1C=C2CCNC(C2=CC1OCC)=C(C#N)SCC(CN1CCOCC1)OC(C1=CC=CC=C1)=O | InChI=1S/C29H35N3O5S.ClH/c1-3-35-25-16-22-10-11-31-28(24(22)17-26(25)36-4-2)27(18-30)38-20-23(19-32-12-14-34-15-13-32)37-29(33)21-8-6-5-7-9-21;/h5-9,16-17,23,31H,3-4,10-15,19-20H2,1-2H3;1H
